**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Visible Chip LED
* Matchcode:          WL-SMRW SMD Mono-color Reverse mount Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  1206_156120AS82500  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8014
+ RS=3.2796
+ IKF=9.8369
+ CJO=0.000000000050018
+ M=0.1
+ VJ=9.99
.ends
******
.subckt  1206_156120BS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=840.45E-15
+ N=4.9950
+ RS=9.4774
+ IKF=999
+ CJO=5.1422E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120BS75300  1  2
D1 1 2 led
.MODEL led D
+ IS=693.88E-15
+ N=4.9950
+ RS=10.731
+ IKF=999
+ CJO=4.9744E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120BS82500  1  2
D1 1 2 led
.MODEL led D
+ IS=3.5444E-16
+ N=3.6748
+ RS=8.9063
+ IKF=0.0062465
+ CJO=0.000000000044333
+ M=0.1
+ VJ=9.99
.ends
******
.subckt  1206_156120GS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=686.80E-15
+ N=4.9950
+ RS=7.8035
+ IKF=999
+ CJO=5.2336E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120GS75300  1  2
D1 1 2 led
.MODEL led D
+ IS=966.03E-15
+ N=4.9950
+ RS=8.6562
+ IKF=999
+ CJO=5.8187E-9
+ M=.1001
+ VJ=9.9900
.ends
******

.subckt  1206_156120RS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=3.0679E-9
+ N=4.9950
+ RS=.25066
+ IKF=999
+ CJO=5.8777E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120RS75300  1  2
D1 1 2 led
.MODEL led D
+ IS=4.4379E-9
+ N=4.9950
+ RS=1.5582
+ IKF=999
+ CJO=5.6688E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120RS82500  1  2
D1 1 2 led
.MODEL led D
+ IS=3.5211E-9
+ N=4.9950
+ RS=.37505
+ IKF=999
+ CJO=5.4410E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120VS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8675
+ RS=3.9814
+ IKF=7.4889
+ CJO=0.000000000067243
+ M=0.1
+ VJ=9.99
.ends
******
.subckt  1206_156120VS75300  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8631
+ RS=2.8899
+ IKF=7.1288
+ CJO=0.000000000055388
+ M=0.1
+ VJ=9.99
.ends
******


.subckt  1206_156120VS82500  1  2
D1 1 2 led
.MODEL led D
+ IS=949.52E-12
+ N=4.9950
+ RS=1.3244
+ IKF=999
+ CJO=999.00E-6
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120YS75300  1  2
D1 1 2 led
.MODEL led D
+ IS=3.3734E-9
+ N=4.9950
+ RS=1.4245
+ IKF=999
+ CJO=4.6902E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120YS82500  1  2
D1 1 2 led
.MODEL led D
+ IS=2.6400E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=4.6338E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_156120YS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8265
+ RS=3.6439
+ IKF=8.387
+ CJO=0.000000000043903
+ M=0.1
+ VJ=9.99
.ends
******
.subckt  1206_156120GS82500  1  2
D1 1 2 led
.MODEL led D
+ IS=1.2231E-12
+ N=4.9950
+ RS=4.6769
+ IKF=999
+ CJO=64.173E-12
+ M=2.9171
+ VJ=9.9900
.ends
******
.subckt  1206_156120SS82500  1  2
D1 1 2 led
.MODEL led D
+ IS=4.0773E-9
+ N=4.9950
+ RS=3.8670
+ IKF=999
+ CJO=5.2588E-9
+ M=.1001
+ VJ=9.9900
.ends
******
