**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Ultraviolet High power LED
* Matchcode:          WL-SUMW SMT UltraViolet  Ceramic  Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3535_15335338AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.8130
+ RS=.8647
+ IKF=7.6250
+ CJO=0.000000000000050332
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_15335339AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.8130
+ RS=.8647
+ IKF=7.6250
+ CJO=0.000000000000050332
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_15335340AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.8130
+ RS=.8647
+ IKF=7.6250
+ CJO=0.000000000000050332
+ M=0.1001
+ VJ=9.99
.ends
******