**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     White PLCC LED
* Matchcode:         WL-SWTP SMD White Top view PLCC
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3014_158301230  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=2.568
+ RS=4.8012
+ IKF=3.1385
+ CJO=0.000000000034907
+ M=0.85334
+ VJ=9.99
.ends
******
.subckt  3014_158301227  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=2.568
+ RS=4.8012
+ IKF=3.1385
+ CJO=0.000000000034907
+ M=0.85334
+ VJ=9.99
.ends
******
.subckt  3014_158301240  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=2.568
+ RS=4.8012
+ IKF=3.1385
+ CJO=0.000000000034907
+ M=0.85334
+ VJ=9.99
.ends
******
.subckt  3014_158301250  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=2.568
+ RS=4.8012
+ IKF=3.1385
+ CJO=0.000000000034907
+ M=0.85334
+ VJ=9.99
.ends
******
.subckt  3014_158301260  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=2.568
+ RS=4.8012
+ IKF=3.1385
+ CJO=0.000000000034907
+ M=0.85334
+ VJ=9.99
.ends
******
.subckt  5630_158563427  1  2
D1 1 2 led
.MODEL led D
+ IS=12.036E-12
+ N=4.9950
+ RS=.27831
+ IKF=999
+ CJO=999.00E-6
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  5630_158563430  1  2
D1 1 2 led
.MODEL led D
+ IS=12.036E-12
+ N=4.9950
+ RS=.27831
+ IKF=999
+ CJO=999.00E-6
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  5630_158563440  1  2
D1 1 2 led
.MODEL led D
+ IS=12.036E-12
+ N=4.9950
+ RS=.27831
+ IKF=999
+ CJO=999.00E-6
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  5630_158563450  1  2
D1 1 2 led
.MODEL led D
+ IS=12.036E-12
+ N=4.9950
+ RS=.27831
+ IKF=999
+ CJO=999.00E-6
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  5630_158563460  1  2
D1 1 2 led
.MODEL led D
+ IS=12.036E-12
+ N=4.9950
+ RS=.27831
+ IKF=999
+ CJO=999.00E-6
+ M=.1
+ VJ=9.9900
.ends
******